data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8840,"CCN(CC)CC.CCO.COC1=CC=C(C(=O)C(C2=[N:1]CCCN2)C2CC(=O)C=C(C3=C(C)NC4=C3C=CC=C4)[C:2]2=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5512,"CCO[C:1](C)([OH:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3040,"CC1=CC=C(S(=O)(=O)[O:1][CH:2](C)C[S:3]C2=CC=C(C)C=C2)C=C1.CO.N|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5245,"COCC1CCCN1NC1([OH:1])C=C(C)CCC1.COCC1CCCN1[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1101,"CC[CH:1]=[CH:2][C:3](C1=CC=CC=C1)=[O:4].O[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,733,"CCCC[B:1](CCCC)[OH+]C(CCC1=CC=CC=C1)CC(=O)CC(OCC1=CC=C(OC)C=C1)C(C)C.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,6553,"Br[C-:1]=C(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)(C)[O+:2]([K])[H:3].CS(C)=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5536,"CC(C)[N:1]([Li-][O+:2]=[C:3]1C2OC2C(C)(C)C[CH:4]1[H:5])C(C)C|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,8517,"CC[NH+:1](C(C)N(C)C)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4083,"C[S:1]C[CH2:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4487,"CC1CCCC[C+:1]2C=CC=C[C:2]12[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3953,"CCO[C:1](CC)=[O:2].CCO[C:3](=[CH:4]C)[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6689,"C[CH:1]1[N:2](C)CC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9784,"CC[N:1](CC)C(C)N(C)C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1401,"O=[S:1](=O)([N+:2]1=CC=CC=C1)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,218,"CC[NH:1]CC.C[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1798,"CC(C)[O-].CCC(CC)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,563,"CC(=O)CC[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9550,"C1CCC2=[N:1]CCCN2CC1.CO[C:2]([C:3]1([H:4])CCCC1=O)=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,1117,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCO.CCOC(=O)C1=N[N+:1](C2=CC(C#N)=CC=C2)=[C:2](C2=CC=CO2)[CH:3]1[H:4].[OH2:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8222,"CC([Si](C)(C)C)=[C:1]=[CH2:2].[Cl][Ti-]([Cl])([Cl])([Cl])[O+:3]=[CH:4]CCC1=CC=CC=C1|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4127,"CC(CC(C)[C:1](C1=CC=CC=C1)=[OH+:2])=[O:3].CC1=CC=CC=C1.O=S(=O)([O-])C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2647,"CCOCC[CH2:1][Sn-:2]([CH3])([CH3])([CH3])[F].[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4085,"C[O-:1].C[S+:2](C)[CH3:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,165,"C=CCC1C2(C)C=CC(OC)(CC2)C1(C)[OH:1].CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2812,"CC1[CH:1]([O-:2])[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,600,"CO[C:1](OCC[OH:2])=[OH+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7971,"CCOC(=O)[C:1](C)=[C:2](OCC)[O-:3].I[CH:4](I)[I:5].[H][H].[Na+]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5736,"N[C:1]1([Cl:2])C=CC=C[N-:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6721,"CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.N#CC(O)C1=CC=CC=C1.O=C(CC1=CC=C([N+](=O)[O-])C=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5781,"C[O-:1].C[S+:2](C)[O:3][H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,5188,"C[S:1][Cl:2].O=C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,92,"CC(C)[O-].CCC(CC(C)C)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,6849,"CCCC1COC(=[O+:1][H:2])C1.O.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,262,"CC(=O)[O-:1].CS(=O)(=O)O[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,5741,"C=C[C:1](OC(C)=O)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3202,"CCCC[B:1](CCCC)OC(C1=CC=CC=C1)C(C)C(=O)N1C(=O)OCC1CC1=CC=CC=C1.O[OH:2]|(2, 1)"
train,pmechdb_split_0,0,4530,"CC(=O)[O-].CCOC(=O)C1=CN(C2CC2)C2=C(C=C(F)C(N3CC[N+:1](=[CH:2]C4=CC5=C(C=C4)C(C)(C)N(OC)C5(C)C)CC3)=C2)C1=O.CO.N#C[BH2-:3][H:4].O|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2177,"CCC(=O)O[C+:1]1C=CC(Br)=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,9648,"C[NH2:1].O=C([O-])C1C[C:2]2=[CH:3][C:4](=[O:5])C(O)=C[C:6]2([H:7])[NH2+]1|(1, 7);((7, 6), 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7105,"C[CH:1]([O-:2])[S:3](=O)(=O)O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8168,"C=[C:1](C)[Mg:2][Br].C[CH:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6070,"C1=C[NH+]=CN1.COC1OC2COC(C3=CC=CC=C3)OC2C(I)[CH:1]1[O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[I-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,5570,"CC(C)[O-].CC[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,6036,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.CC1=CC=CC=C1.OCC[O+:2](C(O)C1=CC(F)=CC=C1Br)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3316,"CC(C)C1CCC(C2CCC3=C(C=CC=C3)C2[C:1](=[CH2:2])[O-:3])[C:4]1=[O:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
